US08748624B2
STEP B: ethyl 3-(5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (388 mg, 1.83 mmol) was added to a DCE solution (2 mL) of ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate (330 mg, 0.92 mmol), 4′-chloro-[1,1′-biphenyl]-4-amine (186 mg, 0.92 mmol), and AcOH (0.21 mL, 3.66 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 1.83 mmol, 388 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate | 0.92 mmol, 330 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C=O | C18H17ClN2O4
reactant | 4′-chloro-[1,1′-biphenyl]-4-amine | 0.92 mmol, 186 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | AcOH | 3.66 mmol, 0.21 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | ethyl 3-(5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CNC1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C30H27Cl2N3O3
